US08242104B2
To a suspension of 8-bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (7.67 g, 24.9 mmol) in dioxane (150 mL) was added DMF-DMA (9.92 mL, 74.7 mmol) and the reaction mixture heated at 100° C. for 1 h. During the reaction the solids dissolved to give a brown solution. The reaction mixture was concentrated in vacuo and the solid residue triturated with diethyl ether (˜150 mL). The product was collected by filtration and dried in vacuo at 45° C. for 3 h to yield 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid 1-dimethylamino-meth-(Z)-ylideneamide as a buff coloured solid (8.52 g, 94%). 1H NMR (400 MHz, d6-DMSO) 8.56 (1H, s), 8.34 (1H, d, J=8.6 Hz), 7.96 (1H, s), 7.32 (1H, dd, J=8.6, 2.0 Hz), 7.26 (1H, d, J=2.1 Hz), 4.51-4.46 (4H, m), 3.16 (3H, s), 3.08 (3H, s). 1H NMR showed product to contain 5% 8-iodo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid 1-dimethylamino-meth-(Z)-ylideneamide.

reactant | 8-bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 24.9 mmol, 7.67 g | BrC1=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C=C1 | C12H10BrN3O2
reactant | DMF-DMA | 74.7 mmol, 9.92 mL | CN(C)C(OC)OC | C5H13NO2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid 1-dimethylamino-meth-(Z)-ylideneamide | 8.52 g, 94% | CN(\C=N/C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br)C | C15H15BrN4O2
